US08975254B2
3-Acetyl-N-(2-(3-(3,4-dicyanophenyl)-1H-pyrazol-1-yl)ethyl)-1H-pyrazole-5-carboxamide
The title compound was prepared from 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-phthalonitrile (50 mg) and 3-acetyl-1H-pyrazole-5-carboxylic acid (34 mg) using the method of Example 34(d). Yield 43 mg. 1H-NMR (400 MHz; d6-DMSO): δ 2.49 (s, 3H), 3.70 (m, 2H), 4.37 (t, 2H), 7.00 (d, 1H), 7.27 (s, 1H), 7.86 (d, 1H), 8.13 (d, 1H), 8.28 (d, 1H), 8.45 (d, 1H), 8.63 (br s, 1H), 14.05 (br s, 1H).

reactant | 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-phthalonitrile | 50 mg | NCCN1N=C(C=C1)C=1C=C(C(C#N)=CC1)C#N | C13H11N5
reactant | 3-acetyl-1H-pyrazole-5-carboxylic acid | 34 mg | C(C)(=O)C1=NNC(=C1)C(=O)O | C6H6N2O3
product | 3-Acetyl-N-(2-(3-(3,4-dicyanophenyl)-1H-pyrazol-1-yl)ethyl)-1H-pyrazole-5-carboxamide | C(C)(=O)C1=NNC(=C1)C(=O)NCCN1N=C(C=C1)C1=CC(=C(C=C1)C#N)C#N | C19H15N7O2
